US05827887
N,N-bis-(isopropyl)-4-bromo-benzeneacetamide
4.21 g of 1-ethyl 3-(3-dimethylamino-propyl)-carbodiimide (EDAC) and 3.08 ml of diisopropylamine were added to a solution of 4.3 g of 4-bromo-benzeneacetic acid (BrPhCH2COOH) in 15 ml of dichloromethane and the mixture was stirred for 10 minutes at ambient temperature. After evaporation under reduced pressure, the crude product was chromatographed on silica, eluting with an ethyl acetate/cyclohexane mixture (2/8) to obtain 3.7 g of product in the form of an oil with a Rf=0.21 ethyl acetate/cyclohexane 2/8).

reactant | 1-ethyl 3-(3-dimethylamino-propyl)-carbodiimide | 4.21 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | diisopropylamine | 3.08 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4-bromo-benzeneacetic acid | 4.3 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N,N-bis-(isopropyl)-4-bromo-benzeneacetamide | 3.7 g | C(C)(C)N(C(CC1=CC=C(C=C1)Br)=O)C(C)C | C14H20BrNO
